US07022725B2
To a solution of methyl 3-[5-(4-chloro-3-methylphenyl)-4-isoxazolyl]propionate (1.20 g) in tetrahydrofuran (40 ml) was gently added diisobutylaluminum hydride (1.0 M toluene solution, 9.5 ml) at 0° C., and the mixture was stirred at room temperature for 3 hr. Water was carefully added to the reaction mixture, acidified with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography and the crystals obtained from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio) were recrystallized from ethyl acetate-hexane to give a colorless needle of 3-[5-(4-chloro-3-methylphenyl)-4-isoxazolyl]propan-1-ol (780 mg, yield 72%). melting point: 50–51° C.

reactant | methyl 3-[5-(4-chloro-3-methylphenyl)-4-isoxazolyl]propionate | 1.20 g | ClC1=C(C=C(C=C1)C1=C(C=NO1)CCC(=O)OC)C | C14H14ClNO3
reactant | diisobutylaluminum hydride | 1.0 M, 9.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-[5-(4-chloro-3-methylphenyl)-4-isoxazolyl]propan-1-ol | 780 mg, yield 72% | ClC1=C(C=C(C=C1)C1=C(C=NO1)CCCO)C | C13H14ClNO2
